US05348954
c) 3,5-Bis-aminomethyl-morpholine.
3,5-Bis--aminomethyl--4-benzylmorpholine (1.3 g, 5.5 mmol) was dissolved in methanol (50 ml) . Ammoniumformiate (1.4 g, 22 mmol) and palladium on activated carbon (10 % , 5 g) were added. The reaction mixture was stirred at 50 ° C. under nitrogen for 3 hours. The catalyst was then filtered off and washed with several small portions of methanol and the solution evaporated to dryness. The tri-amine was used direcly in the next reaction step. FAB/MS: 146 (M+1).

reactant | 3,5-Bis--aminomethyl--4-benzylmorpholine | 5.5 mmol, 1.3 g | NCC1N(C(COC1)CN)CC1=CC=CC=C1 | C13H21N3O
reactant | Ammoniumformiate | 22 mmol, 1.4 g | C(=O)[O-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on activated carbon | 5 g | [Pd] | Pd
product | 3,5-Bis-aminomethyl-morpholine | NCC1NC(COC1)CN | C6H15N3O
